************************************************************************
* auCdl Netlist:
* 
* Library Name:  EECS392
* Top Cell Name: Booth_Decoder
* View Name:     schematic
* Netlisted on:  Jun  8 23:10:20 2013
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: EECS392
* Cell Name:    Inverter
* View Name:    schematic
************************************************************************

.SUBCKT Inverter In Out
*.PININFO In:I Out:O
MM0 Out In vdd! vdd! PMOS_VTG W=1.96u L=50n m=1
MM1 Out In gnd! gnd! NMOS_VTG W=1.44u L=50n m=1
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B Output
*.PININFO A:I B:I Output:O
MM2 Output B vdd! vdd! PMOS_VTG W=1.44u L=50n m=1
MM0 Output A vdd! vdd! PMOS_VTG W=1.44u L=50n m=1
MM3 net17 B gnd! gnd! NMOS_VTG W=1.63u L=50n m=1
MM1 Output A net17 gnd! NMOS_VTG W=1.63u L=50n m=1
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    AND
* View Name:    schematic
************************************************************************

.SUBCKT AND A B Output
*.PININFO A:I B:I Output:O
XI5 net8 Output / Inverter
XI4 A B net8 / NAND
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    2_1MUX
* View Name:    schematic
************************************************************************

.SUBCKT 2_1MUX IN0 IN1 Output S
*.PININFO IN0:I IN1:I S:I Output:O
MM1 IN1 S Output gnd! NMOS_VTG W=280.0n L=50n m=1
MM0 IN0 net10 Output gnd! NMOS_VTG W=280.0n L=50n m=1
MM3 IN1 net10 Output vdd! PMOS_VTG W=300n L=50n m=1
MM2 IN0 S Output vdd! PMOS_VTG W=300n L=50n m=1
XI0 S net10 / Inverter
.ENDS

************************************************************************
* Library Name: EECS392
* Cell Name:    Booth_Decoder
* View Name:    schematic
************************************************************************

.SUBCKT Booth_Decoder BD<7> BD<6> BD<5> BD<4> BD<3> BD<2> BD<1> BD<0> MD<7> 
+ MD<6> MD<5> MD<4> MD<3> MD<2> MD<1> MD<0> OutA OutB init invMD<7> invMD<6> 
+ invMD<5> invMD<4> invMD<3> invMD<2> invMD<1> invMD<0>
*.PININFO MD<7>:I MD<6>:I MD<5>:I MD<4>:I MD<3>:I MD<2>:I MD<1>:I MD<0>:I 
*.PININFO OutA:I OutB:I invMD<7>:I invMD<6>:I invMD<5>:I invMD<4>:I invMD<3>:I 
*.PININFO invMD<2>:I invMD<1>:I invMD<0>:I BD<7>:O BD<6>:O BD<5>:O BD<4>:O 
*.PININFO BD<3>:O BD<2>:O BD<1>:O BD<0>:O init:O
XI20 OutA MD<3> net14 / AND
XI16 OutA MD<0> net22 / AND
XI15 OutA MD<1> net16 / AND
XI14 OutA MD<2> net17 / AND
XI3 OutA MD<4> net23 / AND
XI2 OutA MD<5> net19 / AND
XI1 OutA MD<6> net20 / AND
XI0 OutA MD<7> net21 / AND
XI8 OutA OutB init / NAND
XI21 invMD<3> net14 BD<3> init / 2_1MUX
XI19 invMD<0> net22 BD<0> init / 2_1MUX
XI18 invMD<1> net16 BD<1> init / 2_1MUX
XI13 invMD<4> net23 BD<4> init / 2_1MUX
XI12 invMD<5> net19 BD<5> init / 2_1MUX
XI11 invMD<6> net20 BD<6> init / 2_1MUX
XI10 invMD<7> net21 BD<7> init / 2_1MUX
XI17 invMD<2> net17 BD<2> init / 2_1MUX
.ENDS

